US07947715B2
Step 4: Production of N-[(2-chloro-4-formylphenyl)methyl]cyclopropanecarboxamide
In a solution of 2.20 g of N-[(2-chloro-4-iodophenyl)methyl]cyclopropanecarboxamide and 0.57 g of sodium formate in 20 mL of N,N-dimethylformamide in an autoclave, 0.26 g of dichlorobis(triphenylphosphine) palladium (II) was added, and stirred under carbon monoxide atmosphere of 1.5 MPa at 90° C. for 1 hour. After the completion of the reaction, the reaction mixture was left and cooled to room temperature, and diluted with 60 mL of ethyl acetate and washed with water (30 mL×2). The organic phase was dehydrated with and dried over saturated sodium chloride aqueous solution and anhydrous magnesium sulfate in that order, the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluted with ethyl acetate to obtain 1.20 g of the aimed product as white crystal.

reactant | N-[(2-chloro-4-iodophenyl)methyl]cyclopropanecarboxamide | 2.20 g | ClC1=C(C=CC(=C1)I)CNC(=O)C1CC1 | C11H11ClINO
reactant | sodium formate | 0.57 g | C(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | N-[(2-chloro-4-formylphenyl)methyl]cyclopropanecarboxamide | 1.20 g | ClC1=C(C=CC(=C1)C=O)CNC(=O)C1CC1 | C12H12ClNO2
